US08461348B2
2-[4-(ethoxycarbonyl)-1H-pyrazol-1-yl]propanoic acid
By a reaction in the same manner as in Example 10a and using ethyl 1H-pyrazole-4-carboxylate (1.40 g, 10.0 mmol) and tert-butyl 2-bromopropanate (3.14 g, 15.0 mmol), the title compound (1.85 g, 87%) was obtained as a colorless oil.

reactant | ethyl 1H-pyrazole-4-carboxylate | 10.0 mmol, 1.40 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | tert-butyl 2-bromopropanate | 15.0 mmol, 3.14 g | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
product | 2-[4-(ethoxycarbonyl)-1H-pyrazol-1-yl]propanoic acid | 1.85 g, 87% | C(C)OC(=O)C=1C=NN(C1)C(C(=O)O)C | C9H12N2O4
